US05192758
Preparation of 4-t-butyldiphenylsiloxymethylbromobenzene
To a stirred solution of 7.48 g (40 mmoles) of p-bromobenzyl alcohol and 6.07 g (60 mmoles) of triethylamine in 70 mL of sieve dried DMF at 0° C. was added 14.3 g (52 mmoles) of neat t-butyldiphenylsilylchloride. The ice-water bath was removed and the mixture was stirred further for 20 hours.

reactant | p-bromobenzyl alcohol | 40 mmoles, 7.48 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | triethylamine | 60 mmoles, 6.07 g | C(C)N(CC)CC | C6H15N
reactant | t-butyldiphenylsilylchloride | 52 mmoles, 14.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 4-t-butyldiphenylsiloxymethylbromobenzene | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=CC=C(C=C1)Br | C23H25BrOSi
